US04703048
In 10 ml of chloroform was suspended 2.5 g (10.5 millimoles) of 2,3,4-trimethoxycinnamic acid, and under ice cooling, 3.5 ml (about 48 millimoles) of thionyl chloride was added dropwise. The mixture was stirred for 30 minutes under ice cooling, and the excess of thionyl chloride and chloroform were distilled off under reduced pressure. The residue was diluted with 20 ml of methylene chloride and added dropwise under ice cooling to 30 ml of a methylene chloride solution of 2.7 g (9.4 millimoles) of bis(4-fluorophenyl)methylpiperazine and 2 g (19.8 millimoles) of triethylamine. The mixture was stirred for 30 minutes under ice cooling. Thereafter, a 10% aqueous solution of sodium bicarbonate was added, and the mixture was shaken. The organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The resulting oily product was diluted with 20 ml of ethanol. One milliliter of concentrated hydrochloric acid was added and then ether was added. The crystals that precipitated were collected by filtration. Recrystallization from methanol gave 1.4 g (yield 27.3%) of 1-[bis(4-fluorophenyl)methyl]-4-(2,3,4-trimethoxycinnamoyl)piperazine hydrochloride as colorless crystals.

reactant | 2,3,4-trimethoxycinnamic acid | 10.5 millimoles, 2.5 g | COC1=C(C=CC(=O)O)C=CC(=C1OC)OC | C12H14O5
reactant | thionyl chloride | about 48 millimoles, 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | bis(4-fluorophenyl)methylpiperazine | 9.4 millimoles, 2.7 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N1CCNCC1 | C17H18F2N2
reactant | triethylamine | 19.8 millimoles, 2 g | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[bis(4-fluorophenyl)methyl]-4-(2,3,4-trimethoxycinnamoyl)piperazine hydrochloride | 1.4 g, yield 27.3% | Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)C(C=CC1=C(C(=C(C=C1)OC)OC)OC)=O)C1=CC=C(C=C1)F | InChI=1S/C29H30F2N2O4.ClH/c1-35-25-14-8-22(28(36-2)29(25)37-3)9-15-26(34)32-16-18-33(19-17-32)27(20-4-10-23(30)11-5-20)21-6-12-24(31)13-7-21;/h4-15,27H,16-19H2,1-3H3;1H
